US07659263B2
A solution of methyl 4-nitro-5-methylthiophene-2-carboxylate (23 g, 114 mmol) in N,N-dimethylformamide dimethyl acetal (115 ml) was stirred at 110° C. for 1 hr. The reaction mixture was cooled to room temperature, concentrated under reduced pressure to about half amount, and poured into water (500 ml). The precipitated solid was collected by filtration, washed with water (500 ml×2), and dried under reduced pressure to give methyl (E)-5-(2-dimethylaminovinyl)-4-nitrothiophene-2-carboxylate (28 g, yield 96%).

reactant | methyl 4-nitro-5-methylthiophene-2-carboxylate | 114 mmol, 23 g | [N+](=O)([O-])C=1C=C(SC1C)C(=O)OC | C7H7NO4S
reactant | N,N-dimethylformamide dimethyl acetal | 115 ml | COC(N(C)C)OC | C5H13NO2
product | methyl (E)-5-(2-dimethylaminovinyl)-4-nitrothiophene-2-carboxylate | 28 g, yield 96% | CN(/C=C/C1=C(C=C(S1)C(=O)OC)[N+](=O)[O-])C | C10H12N2O4S
